US04937188
3',5'-Bis-(5-aminopentylphosphoryl)-thymidine of step 7 may also be prepared by reacting 5-trifluoroacetamido-pentanol with phosphoryl chloride, forming 5-trifluoroacetamidopentylphosphorodichloridite, that can be reacted in pyridine with thymidine followed by hydrolysis in aqueous piperidine.

reactant | 5-trifluoroacetamido-pentanol | FC(C(=O)NCCCCCO)(F)F | C7H12F3NO2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-trifluoroacetamidopentylphosphorodichloridite | FC(C(=O)NCCCCCOP(Cl)Cl)(F)F | C7H11Cl2F3NO2P
